US08357689B2
1-(1H-imidazol-2-yl)-5-nitro-2,3-dihydro-1H-indole
470 mg N-(2,2-diethoxy-ethyl)-5-nitro-2,3-dihydro-indole-1-carboxamidine are dissolved in 8 ml trifluoroacetic acid and the mixture is heated to 60° C. for 3 hours. Then the solvent is eliminated in vacuo and the residue is chromatographed on aluminium oxide (dichloromethane/methanol 99:1 to 70:30).

reactant | N-(2,2-diethoxy-ethyl)-5-nitro-2,3-dihydro-indole-1-carboxamidine | 470 mg | C(C)OC(CNC(=N)N1CCC2=CC(=CC=C12)[N+](=O)[O-])OCC | C15H22N4O4
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(1H-imidazol-2-yl)-5-nitro-2,3-dihydro-1H-indole | N1C(=NC=C1)N1CCC2=CC(=CC=C12)[N+](=O)[O-] | C11H10N4O2
